US05407943
A. 7-(1-tert-Butoxycarbonylamino-6-azaspiro[2.5]oct-6-yl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid
According to the procedure of example 1A, 1-tert-butoxycarbonylamino-6-azaspiro[2.5]octane (181.2 mg, 0.80 mmol) and 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid (239.8 mg, 0.72 mmol) were reacted to generate the title product (352.2 mg, crude).

reactant | 1-tert-butoxycarbonylamino-6-azaspiro[2.5]octane | 0.80 mmol, 181.2 mg | C(C)(C)(C)OC(=O)NC1CC12CCNCC2 | C12H22N2O2
reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 0.72 mmol, 239.8 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
product | 7-(1-tert-Butoxycarbonylamino-6-azaspiro[2.5]oct-6-yl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 352.2 mg | C(C)(C)(C)OC(=O)NC1CC12CCN(CC2)C2=C(C=C1C(C(=CN(C1=C2F)C2CC2)C(=O)O)=O)F | C25H29F2N3O5
